US04287207
In 50 ml of anhydrous dioxane, 3.5 g (0.04 mol) of 1,3-dimethyl urea was dissolved, and under stirring 4.8 g (0.04 mol) of phenylisocyanate was added thereinto. The reaction was carried out at a room temperature for 15 hours, then the reaction mixture was treated a procedure same as in Example 1. The residue thus obtained was recrystallized from ethanol-petroleum ether to obtain 5.0 g (yield 60%) of 1,3-dimethyl-5-phenylbiuret having a melting point of 93°-95° C.

reactant | 1,3-dimethyl urea | 0.04 mol, 3.5 g | CNC(=O)NC | C3H8N2O
reactant | phenylisocyanate | 0.04 mol, 4.8 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1,3-dimethyl-5-phenylbiuret | 5.0 g, yield 60% | CNC(=O)N(C(=O)NC1=CC=CC=C1)C | C10H13N3O2
